US05254558
2-[5-Benzyloxycarbonylamino-2-(4-formylaminophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide
To a solution of 2-[5-benzyloxycarbonylamino-2-(4-nitrophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (2.02 g) in 90% aqueous formic acid (56 mL) was added iron powder (3.9 g). The mixture was stirred at room temperature overnight. Methanol was added and the reaction mixture filtered through diatomaceous earth to remove the excess iron. Ethyl acetate was added and the resultant solution washed with water (twice), brine, then dried (MgSO4) and evaporated. The crude material was purified by chromatography, with dichloromethane:methanol (gradient, 99.5:0.5, 98.2) as the eluent, followed by trituration with hexane:diethyl ether (80:20), to provide the title compound (1.12 g) as an off-white solid; TLC: Rf =0.39, dichloromethane:acetone (70:30); NMR: 0.67-1.03 (m,6), 2.03-2.33 (m,1), 4.00-4.80 (m,3), 5.17 (s,2), 7.20-7.60 (m,7), 7.57-7.77 (m,2), 8.22 (s,1), 8.43 (s,1), 8.83- 9.07 (m,2), 10.30-10.57 (m,1); MS: m/z=574(M+1).

reactant | 2-[5-benzyloxycarbonylamino-2-(4-nitrophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 2.02 g | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C26H24F3N5O7
reactant | Methanol | CO | CH4O
solvent | formic acid | 56 mL | C(=O)O | CH2O2
catalyst | iron | 3.9 g | [Fe] | Fe
product | 2-[5-Benzyloxycarbonylamino-2-(4-formylaminophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 1.12 g | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=C(C=C1)NC=O | C27H26F3N5O6
